US06762197B2
254 mg (5.52 mmol) of methylhydrazine was dissolved in 10 ml of anhydrous toluene, and the mixture was cooled to 0° C. Tot this solution was slowly dropped while stirring a solution prepared by dissolving 1.12 g (5.02 mmol) of 2-methyl-5-phenylbenzyl isocyanate in 20 ml of anhydrous toluene. In this operation, the temperature of the reaction solution was controlled in the range from 0 to 5° C. After completion of dropping, the solution was stirred at 0° C. for 1 hour, further, stirring was continued for 2 hours at room temperature. The reaction solution was concentrated, and the residue was subjected to silica gel column chromatography (eluant: hexane/ethyl acetate=1/1, then, 1/2 (v/v), then only ethyl acetate), to obtain 1.28 g (4.75 mmol) of 2-methyl-4-(2-methyl-5-phenylbenzyl) semicarbazide having a melting point of 91.6° C.

reactant | methylhydrazine | 5.52 mmol, 254 mg | CNN | CH6N2
reactant | 2-methyl-5-phenylbenzyl isocyanate | 5.02 mmol, 1.12 g | CC1=C(CN=C=O)C=C(C=C1)C1=CC=CC=C1 | C15H13NO
reactant | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | 2-methyl-4-(2-methyl-5-phenylbenzyl) semicarbazide | 4.75 mmol, 1.28 g | CN(N)C(=O)NCC1=C(C=CC(=C1)C1=CC=CC=C1)C | C16H19N3O
